US08124629B2
Triphenylphosphine (12.77 g, 481 mmol), carbon tetrachloride (19.0 mL, 197 mmol) and tetrahydrofuran (40 mL) were combined and stirred at room temperature for 15 minutes. A solution of (4-ethanesulfonyl-phenyl)-methanol (4.87 g, 24.4 mmol) in 45 mL tetrahydrofuran was added, then the reaction mixture was heated at 75° C. for 3 hours. The reaction mixture was cooled to room temperature, then partitioned between ethyl acetate (100 mL) and water (100 mL). The organic phase was dried over MgSO4, filtered, and concentrated to give the crude product as an oily solid. A solution of this crude product and dichloromethane was evaporated over silica gel, and the resulting silica gel supported crude product was loaded onto an Analogix SuperFlash™ column. Flash chromatography (15%-35% ethyl acetate in hexanes) afforded 5.16 g (97%) of 4-(ethanesulfonyl)benzyl chloride as a white, crystalline solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.88 (d, J=8.2 Hz, 2 H), 7.70 (d, J=8.2 Hz, 2 H), 4.86 (s, 2 H), 3.29 (q, J=7.4 Hz, 2 H), 1.07 (t, J=7.4 Hz, 3 H).

reactant | Triphenylphosphine | 481 mmol, 12.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 197 mmol, 19.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | (4-ethanesulfonyl-phenyl)-methanol | 24.4 mmol, 4.87 g | C(C)S(=O)(=O)C1=CC=C(C=C1)CO | C9H12O3S
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-(ethanesulfonyl)benzyl chloride | 5.16 g, 97% | C(C)S(=O)(=O)C1=CC=C(CCl)C=C1 | C9H11ClO2S
